US07638515B2
5-{[6-Fluoro-2-hydroxy-4,4-dimethyl-5-methoxy-2-(trifluoromethyl)-1,2,3,4-tetrahydronaphthalen-1-yl]amino}-2-methylphthalazin-1-one, Diastereomer B
Analogously to Example 10, the corresponding imine is produced starting from 200 mg of 4-(3-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)-pentanal and 114 mg of 5-amino-2-methyl-phthalazin-1-one. As in Example 2, 112 mg of imine is reacted by reaction with 0.36 ml of BBr3 (1 M in dichloromethane), and 38 mg of the title compound is obtained.

reactant | 4-(3-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)-pentanal | 200 mg | FC=1C(=C(C=CC1)C(CC(C=O)(C(F)(F)F)O)(C)C)OC | C14H16F4O3
reactant | 5-amino-2-methyl-phthalazin-1-one | 114 mg | NC1=C2C=NN(C(C2=CC=C1)=O)C | C9H9N3O
reactant | BBr3 | 1 M, 0.36 ml | B(Br)(Br)Br | BBr3
product | 5-{[6-Fluoro-2-hydroxy-4,4-dimethyl-5-methoxy-2-(trifluoromethyl)-1,2,3,4-tetrahydronaphthalen-1-yl]amino}-2-methylphthalazin-1-one | 38 mg | FC=1C(=C2C(CC(C(C2=CC1)NC1=C2C=NN(C(C2=CC=C1)=O)C)(C(F)(F)F)O)(C)C)OC | C23H23F4N3O3
